US05595992
Preparation of the starting material 4-isobutylidenecyclohexylamine
26.7 g (0.18 mol) of 4-isobutylidenecyclohexanone (prepared with isobutyltriphenylphosphonium bromide/sodium hydride and cyclohexane-1,4-dione monoethylene ketal in DMSO, followed by hydrolysis of the ketal) in 200 ml of ammonia-saturated methanol was subjected to reductive amination at 100° C. at a hydrogen pressure of 100 bar in the presence of 6 g of Raney nickel. After the catalyst had been removed by filtration and the methanol had been stripped off, the crude product was distilled on a thin-layer evaporator (135° C./0.6 bar). 16.5 g (61% of theory) of a pale yellow oil were obtained.

reactant | 4-isobutylidenecyclohexanone | 0.18 mol, 26.7 g | C(C(C)C)=C1CCC(CC1)=O | C10H16O
reactant | isobutyltriphenylphosphonium bromide sodium hydride | [Br-].C(C(C)C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[H-].[Na+]
reactant | cyclohexane-1,4-dione monoethylene ketal | C1COC2(CCC(CC2)=O)O1 | C8H12O3
reactant | hydrogen | [H][H] | H2
reactant | ammonia | 200 ml | N | H3N
solvent | DMSO | CS(=O)C | C2H6OS
catalyst | Raney nickel | 6 g | [Ni] | Ni
product | 4-isobutylidenecyclohexylamine | C(C(C)C)=C1CCC(CC1)N | C10H19N
